US05747423
(c) 4-Chloro-6-methoxy-2-(5-trifluoromethyl-2-thienyl)pyrimidine
2.05 g 2-Trifluoromethylthiophene in 20 mL diethylether are treated with 8.2 mL of a 1.6 M solution of n-butyllithium in hexane at -70° C. After 30 minutes the mixture is warmed to -40° C. and added dropwise to a solution of 2,4-dichloro-6-methoxypyrimidine in 20 mL of ether, which is kept at 0° C. The mixture is allowed to reach room temperature, is washed with water and 0.24 g of the product are isolated as an oil after flash chromatography.

reactant | 2-Trifluoromethylthiophene | 2.05 g | FC(C=1SC=CC1)(F)F | C5H3F3S
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2,4-dichloro-6-methoxypyrimidine | ClC1=NC(=CC(=N1)Cl)OC | C5H4Cl2N2O
solvent | diethylether | 20 mL | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 20 mL | CCOCC | C4H10O
product | 4-Chloro-6-methoxy-2-(5-trifluoromethyl-2-thienyl)pyrimidine | ClC1=NC(=NC(=C1)OC)C=1SC(=CC1)C(F)(F)F | C10H6ClF3N2OS
